US05077409
N-[3-(Bromomethyl)phenyl]-4-(tetradecyloxy)-benzeneacetamide
To a stirred solution of 4.0 g of N-[3-hydroxymethyl)phenyl]-4-(tetradecyloxy)-benzeneacetamide in 100 ml of tetrahydrofuran is added 1.19 g of triethylamine followed by 1.34 g of methanesulfonyl chloride. Also added is 7.66 g of lithium bromide and continued stirring for 24 hours. The solvent is removed under vacuum and the residue is partitioned between chloroform and water followed by an additional wash of the organic layer with saturated sodium bicarbonate. The organic layer is dried and filtered through a pad of silica gel. The filtrate is evaporated to a residue which is crystallized from hexane:carbon tetrachloride to give 4.1 g of the desired product as a white powder, m.p. 116°-118° C.

reactant | 4-(tetradecyloxy)-benzeneacetamide | C(CCCCCCCCCCCCC)OC1=CC=C(C=C1)CC(=O)N | C22H37NO2
reactant | triethylamine | 1.19 g | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 1.34 g | CS(=O)(=O)Cl | CH3ClO2S
reactant | lithium bromide | 7.66 g | [Br-].[Li+]
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | N-[3-(Bromomethyl)phenyl]-4-(tetradecyloxy)-benzeneacetamide | 4.1 g | BrCC=1C=C(C=CC1)NC(CC1=CC=C(C=C1)OCCCCCCCCCCCCCC)=O | C29H42BrNO2
